US08106215B2
Imidazo[1,2-a]pyridine-3-carboxylic acid-(1S,2S,5R)-[7,7-difluoro-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide
prepared by reaction of (1S,2S,5R)-(2-aminomethyl-7,7-difluoro-3-aza-bicyclo[3.3.0]-oct-3-yl)-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone with imidazo[1,2-a]pyridine-3-carboxylic acid.

reactant | (1S,2S,5R)-(2-aminomethyl-7,7-difluoro-3-aza-bicyclo[3.3.0]-oct-3-yl)-(2-methyl-5-m-tolyl-thiazol-4-yl)-methanone | NC[C@@H]1[C@H]2CC(C[C@H]2CN1C(=O)C=1N=C(SC1C=1C=C(C=CC1)C)C)(F)F | C20H23F2N3OS
reactant | imidazo[1,2-a]pyridine-3-carboxylic acid | N=1C=C(N2C1C=CC=C2)C(=O)O | C8H6N2O2
product | Imidazo[1,2-a]pyridine-3-carboxylic acid-(1S,2S,5R)-[7,7-difluoro-3-(2-methyl-5-m-tolyl-thiazole-4-carbonyl)-3-aza-bicyclo[3.3.0]oct-2-ylmethyl]-amide | FC1(C[C@H]2CN([C@@H]([C@H]2C1)CNC(=O)C1=CN=C2N1C=CC=C2)C(=O)C=2N=C(SC2C=2C=C(C=CC2)C)C)F | C28H27F2N5O2S
